### ISSUE TITLE
BZMathlib review: post-#5084 audit of monic_primitive_sign_normalized_of_monic cluster inversion (umbrella collapse + 2 first-class helpers)

### ISSUE THREAD

**Issue by kim-em** [kim-em/hex-dev#5090]
## Current state

depends-on: #5084

`HexBerlekampZassenhausMathlib/Basic.lean` is in the middle of a
Monic-route cluster consolidation. The currently-claimed #5084
will, per its deliverables:

1. Hoist `zpoly_primitive_of_monic` and
   `zpoly_normalize_factor_sign_of_monic` from their current
   `Basic.lean:6678-6685` neighbourhood to immediately above
   `monic_primitive_sign_normalized_of_monic`
   (`Basic.lean:4480`), in the same band as the existing
   `zpoly_size_pos_of_monic` hoist target.
2. Convert the two helpers to first-class proofs by moving the
   umbrella's inline case bodies into them
   (content-1 case body for `zpoly_primitive_of_monic`,
   normalizeFactorSign case body for
   `zpoly_normalize_factor_sign_of_monic`).
3. Collapse `monic_primitive_sign_normalized_of_monic`'s body
   to a 3-line anonymous-constructor term invoking the two
   helpers plus `hfactor_monic`.

After #5084 lands, `Basic.lean` should contain:

- **One** `private theorem zpoly_primitive_of_monic` definition
  at a minimal-hoist position above
  `monic_primitive_sign_normalized_of_monic`, with a first-class
  body (no `.2.1` corollary projection).
- **One** `private theorem zpoly_normalize_factor_sign_of_monic`
  definition at the same hoist band, with a first-class body
  (no `.2.2` corollary projection).
- The `monic_primitive_sign_normalized_of_monic` umbrella with a
  3-line anonymous-constructor body (signature and docstring
  unchanged).
- **13** call sites for the two helpers — none changed by #5084
  (the umbrella's existing corollary callers continue to compile
  unchanged because the helper signatures are preserved).

This issue audits the post-#5084 state of the
`monic_primitive_sign_normalized_of_monic` cluster against the
same three invariants applied to the `zpoly_dvd_trans` cluster
in the #5048 / #5057 / #5069 audits, to the Monic-route cluster
helper-extraction cascade in #5031 / #5039, to the
`zpoly_size_pos_of_pos_lc` pair in #5053 / #5063, to the
`fpPoly_dvd_trans` cluster in #5082, and to the
`fpPoly_isZero_false_of_dvd_of_isZero_false` cluster in the
pending #5085 audit. The pattern is the project's standard
audit shape.

## Deliverables

The audit comment posted on this issue must address all three
invariants verbatim:

1. **Call-site coverage and umbrella collapse.** Confirm that:
   - All 13 existing call sites for
     `zpoly_primitive_of_monic` and
     `zpoly_normalize_factor_sign_of_monic` (per the #5050
     feasibility audit comment: `Basic.lean:5556`, `7758`,
     `7761`, `9432`, `9437`, `9957`, `9959`, `10065`, `10067`,
     `13375`, `13377`, `14665`; line numbers as-of pre-#5084,
     re-derive post-#5084) compile unchanged. List each
     post-#5084 line number for both helpers and identify the
     enclosing theorem.
   - `monic_primitive_sign_normalized_of_monic` has no direct
     non-corollary callers in `Basic.lean`,
     `IntReductionMod.lean`, or `Recovery.lean`. Confirm via
     `git grep -n "monic_primitive_sign_normalized_of_monic" \
     HexBerlekampZassenhausMathlib/` and classify every match:
     declarations (1), corollary callers (the two helpers
     themselves if the corollary form is retained — verify the
     post-#5084 form — and any docstring references).
   - The umbrella body is the 3-line
     `⟨hfactor_monic, zpoly_primitive_of_monic …,
     zpoly_normalize_factor_sign_of_monic …⟩` form (or
     equivalent term-mode anonymous constructor).
   - If any audit-missed sites surface — direct umbrella
     callers, sites that should have been routed through one of
     the now-first-class helpers but inline a similar derivation
     instead, or call sites whose argument form regressed —
     list them with line numbers, enclosing theorem, and
     derivation shape, and issue a DEVIATION verdict on
     Invariant 1 with a recommended follow-up issue draft inline.

2. **Framing, docstring, and hoist correctness.** Verify:
   - `zpoly_primitive_of_monic` and
     `zpoly_normalize_factor_sign_of_monic` are both at the
     hoist band above `monic_primitive_sign_normalized_of_monic`
     (i.e., line numbers below the umbrella's pre-#5084 line
     4480 — confirm specific positions). The hoist band's lower
     bound is the `zpoly_size_pos_of_monic` hoist target from
     #5042 (which the helpers' first-class bodies depend on for
     the content case).
   - Both helpers are `private theorem` (matching the
     pre-#5084 corollary form).
   - Both helpers have a docstring. If the umbrella's pre-#5084
     docstring referenced the content-1 / normalizeFactorSign
     case bodies, that text either moves into the appropriate
     helper's docstring or is preserved on the umbrella with a
     clarifying reframe; document which choice the worker made.
   - No `(#NNNN)` PR-number references, no session metadata, no
     "extracted from `Basic.lean:NNNN`" / "hoisted from …"
     provenance hints in any of the three (helpers + umbrella).
   - The umbrella docstring and signature are unchanged from
     pre-#5084. List any wording deltas.
   - The `monic_primitive_sign_normalized_of_monic` umbrella
     body is structurally what #5084's deliverable 3 prescribes:
     a single anonymous-constructor term. If it expanded into a
     multi-line `⟨…⟩` due to layout, count lines but accept the
     intent if it's a single term-mode expression.

3. **Cross-file consistency.** Confirm exactly one
   `private theorem zpoly_primitive_of_monic` and exactly one
   `private theorem zpoly_normalize_factor_sign_of_monic`
   declaration across the BZMathlib tree, via:
   ```
   git grep -nE "(private theorem|theorem) zpoly_primitive_of_monic" \
     HexBerlekampZassenhausMathlib/
   git grep -nE "(private theorem|theorem) zpoly_normalize_factor_sign_of_monic" \
     HexBerlekampZassenhausMathlib/
   ```
   Each should report exactly one match — in `Basic.lean` at the
   new hoist position. `IntReductionMod.lean` and `Recovery.lean`
   should each report zero `(private theorem|theorem)`-form
   matches. Use counts should be consistent with the call-site
   list from Invariant 1.

Out-of-scope observations from this audit (e.g., adjacent
helpers in the Monic-route cluster that did not get inverted,
sibling clusters that could benefit from a similar inversion
pattern) should be drafted into a fresh planning-issue body at
the bottom of the audit comment, ready for the next planner
cycle to lift.

## Context

This is a review issue. The audit pattern was introduced by
#5031, refined through #5048 → #5062 (DEVIATION) → #5066 +
#5070 → #5069 → #5076 (PASS), and is now the project's
standard three-invariant template for cluster closure.

#5084 is the first **inversion** in the cluster cleanup wave —
it moves bodies into helpers and collapses an umbrella into a
projection bundle, rather than extracting a fresh helper. The
audit shape is the same (call-site coverage / framing / cross-
file consistency), but Invariant 1's check is "no callers
regressed" rather than "all candidate sites rewired".

The post-#5054 feasibility audit (closed by audit comment on
#5050) confirmed the umbrella has zero non-corollary callers —
so the bundle exists purely to be destructured by the two
helpers. After #5084, the bundle becomes a 3-line constructor
returning the same triple but the work moves to the helpers
themselves.

## Verification

1. The audit comment posts on this issue, addresses all three
   invariants verbatim, and reaches a verdict per invariant
   (PASS / DEVIATION).
2. Each invariant section quotes the exact `git grep` /
   `gh pr view` evidence backing the verdict — line numbers,
   docstring excerpts, declaration counts.
3. If a DEVIATION verdict issues on any invariant, a follow-up
   planning-issue body is drafted inline (current state /
   deliverables / context / verification format).
4. No source-tree `.lean` file is edited by this audit. No
   `SPEC/`, `PLAN/`, `libraries.yml`, or `PLAN.md` changes. No
   `.claude/CLAUDE.md` edits.
5. The progress file written for this session names #5084 as
   the audit target tree, the specific commit SHA being
   audited, and the audit comment URL.

**Comment by kim-em** [comment]
Session: `0521e72e-bdf8-48c4-a006-6756d1ee0285` Branch: `agent/0521e72e`

**Comment by kim-em** [comment]
Claimed by session `5100afc8-216e-4a22-9084-a0f6427a3d1d` on branch `agent/5100afc8`

**Comment by kim-em** [comment]
# Audit: post-#5084 `monic_primitive_sign_normalized_of_monic` cluster inversion

**Audit target tree.** Commit `f0463005f9b540648a8e07efadcb4b30840973e7` (merge
of #5084 → main as #5089), title:

> refactor: invert monic_primitive_sign_normalized_of_monic cluster — first-class
> proofs for zpoly_primitive_of_monic and zpoly_normalize_factor_sign_of_monic,
> umbrella collapsed (#5084) (#5089)

This is the first **inversion** audit in the BZMathlib cluster-cleanup wave
(prior audits — #5039, #5057, #5066, #5070, #5076, #5082 — were all
extraction-pattern audits). The invariants below adapt the standard
three-invariant template accordingly: Invariant 1's question is "no callers
regressed" rather than "all candidate sites rewired".

---

## Invariant 1 — Call-site coverage and umbrella collapse: **PASS**

### Helper call sites (post-#5084 line numbers)

`zpoly_primitive_of_monic` — 9 external call sites + 1 use inside the
umbrella body (line 4507):

| # | Site | Enclosing theorem |
|---|------|-------------------|
| 1 | `Basic.lean:5543` | `factorsModP_polyProduct_congr_of_factorsModPBerlekampForm` (decl 5516) |
| 2 | `Basic.lean:7730` | `natDegree_toPolynomial_recombinationCandidate_eq_sum` (decl 7709) |
| 3 | `Basic.lean:9406` | `recombinationCandidate_monic` (decl 9387) |
| 4 | `Basic.lean:9926` | `exists_representingSubset_of_mem_normalizedFactors_recombinationCandidate` (decl 9834) |
| 5 | `Basic.lean:10034` | `exists_representingSubset_of_mem_normalizedFactors_recombinationCandidate_of_primitive_pos_lc_core` (decl 9941) |
| 6 | `Basic.lean:13344` | `recombinationSearchModAux_some_and_covers_of_liftedFactorSubsetPartition` (decl 13225) |
| 7 | `Basic.lean:14634` | `factorWithBound_exhaustive_branch_entry_core_zpolyIrreducible_of_henselSubsetCorrespondence_of_bound` (decl 14576) |
| 8 | `IntReductionMod.lean:3227` | `factor_exhaustive_branch_entry_irreducible_of_choosePrimeData_aux_of_bound` (decl 3086) |
| 9 | `IntReductionMod.lean:3540` | `exhaustiveCoreFactorsWithBound_expansion_preconditions_of_choosePrimeData_of_bound` (decl 3402) |

`zpoly_normalize_factor_sign_of_monic` — 5 external call sites + 1 use inside
the umbrella body (line 4508):

| # | Site | Enclosing theorem |
|---|------|-------------------|
| 1 | `Basic.lean:7727` | `natDegree_toPolynomial_recombinationCandidate_eq_sum` (decl 7709) |
| 2 | `Basic.lean:9401` | `recombinationCandidate_monic` (decl 9387) |
| 3 | `Basic.lean:9928` | `exists_representingSubset_of_mem_normalizedFactors_recombinationCandidate` (decl 9834) |
| 4 | `Basic.lean:10036` | `exists_representingSubset_of_mem_normalizedFactors_recombinationCandidate_of_primitive_pos_lc_core` (decl 9941) |
| 5 | `Basic.lean:13346` | `recombinationSearchModAux_some_and_covers_of_liftedFactorSubsetPartition` (decl 13225) |

**Total external call sites: 14** (9 for `zpoly_primitive_of_monic` + 5 for
`zpoly_normalize_factor_sign_of_monic`). This differs from the issue body's
stated count of "13" — the issue body enumerated 12 `Basic.lean` line numbers
(7 + 5) and gave a "13" total, missing both the IntReductionMod sites and
miscounting. The actual breakdown is 12 Basic-internal + 2
IntReductionMod-external = 14. All 14 sites compile unchanged because the
helper signatures (`{f : Hex.ZPoly} (h : Hex.DensePoly.Monic f) → …`) are
preserved verbatim from pre-#5084.

### Umbrella collapse

```text
$ grep -nE "^(private )?theorem monic_primitive_sign_normalized_of_monic" \
    HexBerlekampZassenhausMathlib/Basic.lean
4501:theorem monic_primitive_sign_normalized_of_monic
```

Body (`Basic.lean:4501-4508`):

```lean
theorem monic_primitive_sign_normalized_of_monic
    {factor : Hex.ZPoly} (hfactor_monic : Hex.DensePoly.Monic factor) :
    Hex.DensePoly.Monic factor ∧
      Hex.ZPoly.content factor = 1 ∧
        Hex.normalizeFactorSign factor = factor :=
  ⟨hfactor_monic,
    zpoly_primitive_of_monic hfactor_monic,
    zpoly_normalize_factor_sign_of_monic hfactor_monic⟩
```

This is a single term-mode anonymous-constructor expression laid out over 3
lines (4506-4508), matching deliverable 3 of #5084 verbatim.

### Direct non-corollary callers of the umbrella

```text
$ git grep -n "monic_primitive_sign_normalized_of_monic" \
    HexBerlekampZassenhausMathlib/
HexBerlekampZassenhausMathlib/Basic.lean:4501:theorem monic_primitive_sign_normalized_of_monic
HexBerlekampZassenhausMathlib/Basic.lean:4541:(notably `monic_primitive_sign_normalized_of_monic` above, …
HexBerlekampZassenhausMathlib/Basic.lean:7934:`monic_primitive_sign_normalized_of_monic`). The proof chains
HexBerlekampZassenhausMathlib/Basic.lean:9384:`monic_primitive_sign_normalized_of_monic`), so the full normalisation chain
```

Four matches total: 1 declaration (4501) + 3 docstring references (4541 inside
`henselLiftData_liftedFactor_monic`'s docstring, 7934 and 9384 inside other
explanatory docstrings). Zero direct call sites for the umbrella — the
"umbrella exists purely to be destructured by the two helpers" precondition
recorded in the issue's Context section was correct, and post-#5084 even the
two former destructure sites have disappeared (the helpers' bodies are now
first-class rather than corollary projections).

Recovery.lean is silent on all three names.

### Verdict

**PASS.** All 14 external call sites for the two helpers compile unchanged;
the umbrella has zero direct callers and remains intact as a 3-line
anonymous-constructor aggregator. No audit-missed sites surfaced.

---

## Invariant 2 — Framing, docstring, and hoist correctness: **PASS** (with one planner-spec note)

### Hoist positions

- `zpoly_size_pos_of_monic` at `Basic.lean:4442` (`private theorem`, unchanged from #5042 hoist target).
- `zpoly_primitive_of_monic` at `Basic.lean:4456`. Uses `zpoly_size_pos_of_monic h` at line 4459 — hoist position correctly puts it above the umbrella and below the size-pos dependency.
- `zpoly_normalize_factor_sign_of_monic` at `Basic.lean:4477`. No dependency on `zpoly_size_pos_of_monic`; its body only `unfold`s `Hex.normalizeFactorSign` and dispatches the `decide`-able sign comparison.
- `monic_primitive_sign_normalized_of_monic` at `Basic.lean:4501`.

All three sit in the same hoist band (4442-4508), with the size-pos
dependency at the top and the umbrella aggregator at the bottom.

### Visibility

```text
$ grep -nE "^(private )?theorem (zpoly_primitive_of_monic|zpoly_normalize_factor_sign_of_monic|monic_primitive_sign_normalized_of_monic)" \
    HexBerlekampZassenhausMathlib/Basic.lean
4456:theorem zpoly_primitive_of_monic {f : Hex.ZPoly}
4477:theorem zpoly_normalize_factor_sign_of_monic {f : Hex.ZPoly}
4501:theorem monic_primitive_sign_normalized_of_monic
```

All three are `theorem` (public). **Note on issue body wording**: the
Invariant 2 spec says "Both helpers are `private theorem` (matching the
pre-#5084 corollary form)". The pre-#5084 form was in fact `theorem`
(not `private theorem`) — verified via
`git show f0463005^:HexBerlekampZassenhausMathlib/Basic.lean | grep -nE
"^(private )?theorem zpoly_primitive_of_monic"`, which reports
`6651:theorem zpoly_primitive_of_monic`. Post-#5084 is `theorem`, which
matches pre-#5084 verbatim. The audit's *intent* — "helpers retain their
pre-#5084 visibility" — is satisfied; the issue body's "`private theorem`"
wording was a planner spec error, not a worker deviation. Cross-file
visibility is required because `IntReductionMod.lean:3227` and
`IntReductionMod.lean:3540` both call `zpoly_primitive_of_monic` from outside
`Basic.lean`, so `private` would have broken the build.

### Docstrings

Both helpers retain their pre-#5084 docstrings verbatim:

- `zpoly_primitive_of_monic` (4455): `/-- Monic integer polynomials are primitive (content 1). -/`
- `zpoly_normalize_factor_sign_of_monic` (4476): `/-- Monic integer polynomials are fixed by `Hex.normalizeFactorSign`. -/`

The umbrella's pre-#5084 docstring (lines 4455-4470 pre-#5084) is preserved
verbatim post-#5084 (lines 4485-4500 post-#5084). Verified by:

```text
$ diff /tmp/umbrella-pre.txt /tmp/umbrella-post.txt
(empty)
```

The two case-body comments (`-- content factor = 1: …` and
`-- normalizeFactorSign factor = factor: …`) from the pre-#5084 umbrella
body do **not** carry over into the helpers' bodies — the helpers' single-
sentence pre-#5084 docstrings already state the same claim more concisely,
so the case-body comments would be redundant. This is a defensible choice;
the docstrings remain accurate.

### Provenance hygiene

No `(#NNNN)` PR-number references, session metadata, or
"extracted from / hoisted from" provenance hints in any of the three
declarations or their docstrings.

### Helper bodies are faithful extractions

The pre-#5084 umbrella body (4471-4501 pre) interleaved the content-1 and
normalizeFactorSign branches. Post-#5084:

- `zpoly_primitive_of_monic` body (4458-4474 post) reproduces the content-1
  branch verbatim — same `hlead`, `hcs_pos`, `hsize_pos`, `hcoeff_last`,
  `hdvd_one`, `hcontent_nonneg` derivations, same `Int.isUnit_iff.mp` case
  split, same `absurd hcontent_nonneg (by decide)` closing.
- `zpoly_normalize_factor_sign_of_monic` body (4479-4483 post) reproduces
  the normalizeFactorSign branch verbatim — same `unfold` /
  `have hnot_neg` / `simp [hnot_neg]` sequence.

No regression in proof shape; no `sorry`s or shortcuts introduced.

### Umbrella signature unchanged

Pre-#5084 (lines 4471-4476):

```lean
theorem monic_primitive_sign_normalized_of_monic
    {factor : Hex.ZPoly} (hfactor_monic : Hex.DensePoly.Monic factor) :
    Hex.DensePoly.Monic factor ∧
      Hex.ZPoly.content factor = 1 ∧
        Hex.normalizeFactorSign factor = factor := by
```

Post-#5084 (lines 4501-4505):

```lean
theorem monic_primitive_sign_normalized_of_monic
    {factor : Hex.ZPoly} (hfactor_monic : Hex.DensePoly.Monic factor) :
    Hex.DensePoly.Monic factor ∧
      Hex.ZPoly.content factor = 1 ∧
        Hex.normalizeFactorSign factor = factor :=
```

Identical except for `:= by` → `:=` (proof-mode → term-mode). The proposition,
hypothesis name, and parameter binding are unchanged.

### Verdict

**PASS.** Hoist positions correct, helper bodies faithful, docstrings
preserved, umbrella signature preserved. The one planner spec note
(visibility wording inaccuracy) does not affect the audit outcome.

---

## Invariant 3 — Cross-file consistency: **PASS**

```text
$ git grep -nE "(private theorem|theorem) zpoly_primitive_of_monic" \
    HexBerlekampZassenhausMathlib/
HexBerlekampZassenhausMathlib/Basic.lean:4456:theorem zpoly_primitive_of_monic {f : Hex.ZPoly}

$ git grep -nE "(private theorem|theorem) zpoly_normalize_factor_sign_of_monic" \
    HexBerlekampZassenhausMathlib/
HexBerlekampZassenhausMathlib/Basic.lean:4477:theorem zpoly_normalize_factor_sign_of_monic {f : Hex.ZPoly}

$ git grep -nE "(private theorem|theorem) monic_primitive_sign_normalized_of_monic" \
    HexBerlekampZassenhausMathlib/
HexBerlekampZassenhausMathlib/Basic.lean:4501:theorem monic_primitive_sign_normalized_of_monic
```

Exactly one declaration of each, all in `Basic.lean` at the new hoist
positions. `IntReductionMod.lean` and `Recovery.lean` each report zero
`(private theorem|theorem)`-form matches for all three names. Use counts
match Invariant 1's inventory: 11 occurrences of `zpoly_primitive_of_monic`
(1 decl + 1 umbrella + 7 Basic external + 2 IntReductionMod external),
7 occurrences of `zpoly_normalize_factor_sign_of_monic` (1 decl + 1
umbrella + 5 Basic external), 4 occurrences of
`monic_primitive_sign_normalized_of_monic` (1 decl + 3 docstring references).

### Verdict

**PASS.**

---

## Summary

- **Invariant 1 (call-site coverage and umbrella collapse):** PASS — 14 external call sites compile unchanged; umbrella collapsed to single 3-line anonymous-constructor; zero non-docstring callers of the umbrella.
- **Invariant 2 (framing, docstring, hoist correctness):** PASS — hoist band intact; helper bodies are faithful branch extractions; umbrella signature and docstring preserved. One planner-spec wording inaccuracy noted (issue body said "private theorem"; pre-#5084 form is `theorem`; post-#5084 matches pre-#5084).
- **Invariant 3 (cross-file consistency):** PASS — exactly one declaration of each, all in `Basic.lean`; zero `(private theorem|theorem)`-form matches in `IntReductionMod.lean` or `Recovery.lean`.

The post-#5084 state of the `monic_primitive_sign_normalized_of_monic` cluster
inversion is clean. No follow-up planning issue is required.

---

## Out-of-scope observations (for the next planner cycle)

1. **`zpoly_ne_zero_of_monic` + `zpoly_lc_pos_of_monic` paired-call pattern.**
   These two helpers stayed at the post-6655 cluster position
   (`Basic.lean:6642` and `6650`) — the #5084 commit message explicitly
   declined to move them because "their bodies are self-contained and do not
   depend on the umbrella". They are, however, consumed in tight pairs at
   `IntReductionMod.lean:3227-3228` and `IntReductionMod.lean:3540-3541`
   (both pairs alongside `zpoly_primitive_of_monic`). A future planner could
   consider either (a) extracting a shared
   `zpoly_monic_facts` aggregator returning the `Monic ∧ Primitive ∧ 0 < lc`
   triple needed by both call sites, or (b) leaving the pair alone — the
   current shape is readable and the two-line `have` pattern is not redundant
   enough to warrant a new helper. No action recommended without a triggering
   audit pressure.

2. **Cluster-wave continuity.** The cluster-cleanup wave's pattern after this
   audit appears to be moving from ZPoly-layer helpers (`zpoly_dvd_trans`
   #5048→#5076, `zpoly_size_pos_of_pos_lc` #5053→#5063, this issue's
   inversion #5084→#5090) to FpPoly-layer helpers (`fpPoly_dvd_trans`
   #5083→#5082, `fpPoly_isZero_false_of_dvd_of_isZero_false` #5081→#5085,
   `fpPoly_mul_dvd_mul` #5091, `fpPoly_leadingCoeff_ne_zero_of_size_pos`
   #5088). No new monic-cluster planning issue surfaces from this audit;
   the cluster is closed.
